US06953790B2
Step G. (3R,6S)-3-Amino-6-(2,3-difluorophenyl)azepan-2-one
Trifluoroacetic acid (4 mL) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate (82 mg, 0.241 mmol) in dichloromethane (4 mL). After 1 h, the solution was concentrated. Saturated aqueous sodium bicarbonate solution was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 241.0 (M+1).

reactant | Trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-oxoazepan-3-ylcarbamate | 0.241 mmol, 82 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=O)NC(OC(C)(C)C)=O | C17H22F2N2O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (3R,6S)-3-Amino-6-(2,3-difluorophenyl)azepan-2-one | N[C@H]1C(NC[C@@H](CC1)C1=C(C(=CC=C1)F)F)=O | C12H14F2N2O
